US04322417
To 4-amino-3-mercapto[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzene is added acrylic acid. The reaction mixture can be heated in a nitrogen atmosphere until analysis by thin layer chromatography indicates the reaction to complete. The residual material can be chromatographed and recrystallized to give 2,3-dihydro-8-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]1,5-benzothiazepin-4(5H)-one

reactant | 4-amino-3-mercapto[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzene | NC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)S | C9H7F6NOS
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
product | 2,3-dihydro-8-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]1,5-benzothiazepin-4(5H)-one | FC(C(C(F)(F)F)(O)C1=CC2=C(NC(CCS2)=O)C=C1)(F)F | C12H9F6NO2S
